US06177452B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (1.43 g), morpholine (2.2 ml) and 2-propanol (20 ml) was stirred under reflux for 4 hours. The reaction mixture was concentrated, and water was added to the residue. The pH was then adjusted 3 with 2 N hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-morpholino-5-oxazolepropionic acid (1.64 g, 98%). This was recrystallized from ethanol to give colorless needles. mp 180-181° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | morpholine | 2.2 ml | N1CCOCC1 | C4H9NO
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 4-(4-chlorophenyl)-2-morpholino-5-oxazolepropionic acid | 1.64 g, 98% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1CCOCC1 | C16H17ClN2O4
